US07153878B2
(4-Mercapto-phenoxy)-acetic acid ethyl ester
To a mixture of (4-chlorosulfonyl-phenoxy)-acetic acid ethyl ester (0.98 g, 3.5 mmol) and tin powder (2.1 g) in ehtanol (4.4 mL) is added HCl in dioxane (1.0 M, 4.4 mL) under nitrogen. The mixture is heated to reflux for 2 hrs, it is poured into ice and methylene chloride and filtered. The layers are separated and extracted with methylene chloride, dried and concentrated. The crude product is used for next step without purification.

reactant | (4-chlorosulfonyl-phenoxy)-acetic acid ethyl ester | 3.5 mmol, 0.98 g | C(C)OC(COC1=CC=C(C=C1)S(=O)(=O)Cl)=O | C10H11ClO5S
reactant | tin | 2.1 g | [Sn] | Sn
reactant | HCl | Cl | ClH
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | dioxane | 1.0 M, 4.4 mL | O1CCOCC1 | C4H8O2
product | (4-Mercapto-phenoxy)-acetic acid ethyl ester | C(C)OC(COC1=CC=C(C=C1)S)=O | C10H12O3S
